Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left eye vision loss
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Mr. ___ is an ___ year old man with PMH of dementia on
memantine and ___ transferred from OSH for vision loss
in left eye for past ___ days. 

Patient appears confused and is unable to give any history.
History obtained from chart review and from son ___
___ over the phone. 

His son last saw him walking normally yesterday. Sometimes, 
there
is a nurse at home when he's alone. Two days ago, he complained
about some visual disturbance but unclear to family what it was. 

Yesterday around 4 pm, he started complaining about his vision a
lot more though family still not sure which eye was bothering
him. At baseline, he doesn't need glasses.

Per son (___), patient normally  knows where he is and 
very conversational. His dementia is reported to be mild and he
can be fuzzy/confused on details. For example, he may merge
daughter-in-laws together. Sometimes he can become agitated and
argumentative about small things with wife. Son takes him out a
lot. He can order his own food at restaurants. 
Son takes him out to visit ___ and ___ which he really
enjoys. He walks a lot and exercises religiously with 
calisthenics. Walks
very well and is very steady on his feet. At baseline, he can
dress, shower, feed self.

Per ED notes, patient was not sure why he was in the hospital. 
He
was not able to say when his visual symptoms started. He did say
it started "suddenly." 

Per OSH notes, the case was discussed with ___. 
"She
states he has been complaining of some problems with his eye for
1 to 2 days. He has a history of dementia and is oftentimes
confused. His confusion waxes and wanes and is currently seems
confused last several days but similar to within his pattern of
waxing and waning."

Ophthalmology saw patient and does see lens artifact in the left
eye but thinks that this might be a chronic finding. "Spoke to
son of patient says this is an acute change with vision loss in
the last 24 hours."

 
Past Medical History:
Cataracts s/p surgery b/l
Hyperthyroidism treated ___ years ago
HTN
Dementia, mild
 
Social History:
___
Family History:
No family history of stroke that son knows of.
Uncle - MI in ___                
Son - ___ at ___
Son - arrhythmia 
 
Physical ___:
1a. Level of Consciousness: 0
1b. LOC Question: 2
1c. LOC Commands: 0 
2.  Best gaze: 0
3.  Visual fields: 0
4.  Facial palsy: 1
5a. Motor arm, left: 0
5b. Motor arm, right: 0
6a. Motor leg, left: 0
6b. Motor leg, right: 0
7.  Limb Ataxia: 0
8.  Sensory: 0
9.  Language: 1
10. Dysarthria: 0
11. Extinction and Neglect: 0

DISCHARGE 
24 HR Data (last updated ___ @ 357)
    Temp: 97.7 (Tm 98.7), BP: 131/78 (124-157/76-88), HR: 81
(61-83), RR: 16 (___), O2 sat: 97% (94-100), O2 delivery: RA  

Patient is confused, not oriented, poor memory. 
Face is symmetric, PERRL, Tracking face with left eye, but 
cannot
recognize objects; vision seems better in peripheral vision, can
see light. Right eye can recognize a pair of glasses. 
 
Pertinent Results:
___ 10:14AM BLOOD WBC-9.1 RBC-3.82* Hgb-12.4* Hct-38.2* 
MCV-100* MCH-32.5* MCHC-32.5 RDW-12.8 RDWSD-47.0* Plt ___
___ 10:14AM BLOOD Neuts-75.3* Lymphs-14.9* Monos-7.3 
Eos-1.5 Baso-0.7 Im ___ AbsNeut-6.84* AbsLymp-1.35 
AbsMono-0.66 AbsEos-0.14 AbsBaso-0.06
___ 10:14AM BLOOD ___ PTT-26.3 ___
___ 10:14AM BLOOD Glucose-87 UreaN-23* Creat-1.6* Na-135 
K-7.3* Cl-101 HCO3-22 AnGap-12
___ 10:14AM BLOOD Calcium-8.8 Phos-3.1 Mg-2.1
___ 07:35AM BLOOD %HbA1c-5.5 eAG-111
___ 07:35AM BLOOD Triglyc-65 HDL-55 CHOL/HD-3.0 LDLcalc-99
___ 07:35AM BLOOD TSH-3.5
___ 10:14AM BLOOD CRP-0.7
___ 10:14AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

___ Imaging CTA HEAD AND CTA NECK
CT head:
There is no evidence of large territory infarction, edema, 
hemorrhage or mass
effect. There are mild periventricular white matter 
hypodensities,
nonspecific, most likely sequela of chronic small vessel 
disease. The
ventricles and sulci are prominent, likely related to 
involutional changes.
 
There is no gross evidence of acute fracture. The ethmoid, 
sphenoid, frontal
and maxillary sinuses are clear. The middle air cavities are 
unremarkable.
Patient status post bilateral lens replacement.
 
CTA neck:
Conventional 3 vessel takeoff. Minimal calcification of the 
level of the
aortic arch and mild at the level of carotid bifurcations. CT 
angiography of
the neck shows normal appearance of the carotid and vertebral 
arteries without
stenosis or occlusion or dissection.
 
CTA head:
Mild calcification at the level of the carotid siphons. CT 
angiography of the
head shows normal appearance of the arteries of the anterior and 
posterior
circulation without stenosis or occlusion or aneurysm greater 
than 3 mm in
size.
 
Other: Visualized portion of lung apices and thyroid lobe are 
unremarkable.
No lymphadenopathy by CT criteria. Moderate degenerative changes 
and disc
space narrowing of the visualized spine.

___ Imaging MR HEAD W/O CONTRAST
1. No acute intracranial abnormality is identified.
2. Foci of blooming on gradient echo sequence in the right 
thalamus and right parietal lobe, which likely represent old 
microhemorrhages.
 
Brief Hospital Course:
___ with HTN and dementia (on memantine and rivastigmine), who 
presented for acute-onset left eye vision loss and increased 
confusion.

#Left eye blindness
Patient presented with ___ days of sudden-onset left eye 
blindness. NIHSS on admission was 4. He was evaluated by 
ophthalmology; their exam showed "fragmented fluffy white lens 
material in the left eye (vs a an intraocular lens in the 
right). This material could also be detached retina but grossly 
looks more like lens." DDx includes CRAO, GCA, and obstuctive 
material within the eye. Inflammatory markers not elevated 
making GCA less likely. No obvious cortical signs on exam, and 
blindness seems monocular, making occipital stroke less likely. 
An MRI of the brain was performed, which did not show any 
evidence of acute stroke. A1c 5.5%, LDL 99. He was initially 
started on ASA 81 mg given concern for an ischemic event, but 
this was stopped on discharge as this was not felt to be the 
etiology of his blindness.

#Dementia
Continued home memantine and held home rivastigmine

TRANSITIONAL ISSUES
- Please ensure follow up with ophthalmology 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Verapamil SR 120 mg PO Q24H 
2. Memantine 10 mg PO BID 
3. rivastigmine tartrate 6 mg oral BID 

 
Discharge Medications:
1.  Memantine 10 mg PO BID  
2.  rivastigmine tartrate 6 mg oral BID  
3.  Verapamil SR 120 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute vision loss secondary to intraocular obstructing lens 
material

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You came into the hospital because you had decreased vision in 
your left eye. Initially, there was some concern that this could 
be the result of a stroke either in the back of your eye or in 
your brain. We did an MRI that did not show evidence of a stroke 
in your brain and your exam is not consistent with a stroke in 
your eye. More likely, there is something obstructing your 
vision from within your eye (which was visualized on an exam by 
the eye doctors). 

When you leave the hospital, you should: 
- Continue to take all of your medications as prescribed and 
attend all of your scheduled clinic visits
- You should see an eye doctor (___). 

It was a please taking care of you,

Your ___ care team 
 
Followup Instructions:
___